US05654316
Beta-(2-oxoethyl)-N-methyl-N-phenyl-1,3-benzodioxol-5-yl-propanamide
A solution of β-(2-hydroxyethyl)-N-methyl-N-phenyl-1,3-benzodioxol-5-yl-propanamide (500 mg) in CH2Cl2 (10 mL) was treated with PDC (570 mg) and molecular sieves (4A, 570 mg) and stirred at room temperture for 2 hours. The reaction mixture was filtered through a pad of silica gel rinsed with EtOAc (100 mL) and concentrated under reduced pressure to yield an oil. Silica gel chromatography eluting with 50-75% EtOAc/Hexanes gave the desired title compound (374 mg).

reactant | β-(2-hydroxyethyl)-N-methyl-N-phenyl-1,3-benzodioxol-5-yl-propanamide | 500 mg | OCCCC(C(=O)N(C1=CC=CC=C1)C)C1=CC2=C(OCO2)C=C1 | C19H21NO4
reactant | PDC | 570 mg | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Beta-(2-oxoethyl)-N-methyl-N-phenyl-1,3-benzodioxol-5-yl-propanamide | 374 mg | O=CCCC(C(=O)N(C1=CC=CC=C1)C)C1=CC2=C(OCO2)C=C1 | C19H19NO4
